US07767677B2
Synthesis of (4-[2,3′]bipyridinyl-6′-yl-piperazin-1-yl)-(2-trifluoromethylphenyl)methanone
Following the procedure as described in Example 5, making variations only as required to use 6′-piperazin-1-yl-[2,3′]bipyridine in place of 3-piperazin-1-yl-6-pyridin-2-ylpyridazine to react with 2-trifluoromethylbenzoyl chloride, the title compound was obtained as a white solid in 20% yield (0.102 g). 1H NMR (300 MHz, CDCl3) δ 8.75 (m, 1H), 8.62 (m, 1H), 8.19 (m, 1H), 7.73-7.67 (m, 2H), 7.63-7.58 (m, 2H), 7.53 (t, J=7.4 Hz, 7.39, 1H), 7.35 (d, J=7.4 Hz, 1H), 7.16 (m, 1H), 6.73 (d, J=8.9 Hz, 1H), 4.01-3.85 (m, 2H), 3.73-3.69 (m, 2H), 3.59-3.56 (m, 2H), 3.31-3.28 (m, 2H). 13C NMR (75 MHz, CDCl3) δ 167.5, 158.9, 155.1, 149.7, 146.6, 136.7, 136.3, 132.2, 129.3, 127.3, 126.8, 126.7, 125.3, 121.5, 119.2, 106.9, 134.6, 46.7, 45.0, 44.9, 41.4. MS (ES+) m/z 413.1 (M+1).

reactant | 6′-piperazin-1-yl-[2,3′]bipyridine | N1(CCNCC1)C1=CC=C(C=N1)C1=NC=CC=C1 | C14H16N4
reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | (4-[2,3′]bipyridinyl-6′-yl-piperazin-1-yl)-(2-trifluoromethylphenyl)methanone | 20% yield | N1=C(C=CC=C1)C=1C=NC(=CC1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C22H19F3N4O
